US07705145B2
A mixture of 3-hydroxy-4-methoxybenzonitrile (34.3 kg), potassium carbonate (54.5 kg) and N,N-dimethylformamide (226 kg) was stirred and heated to approximately 85° C. A toluene solution (91.4 kg) containing N-(3-chloropropyl)morpholine (41.1 kg) was added to the heated mixture and the resultant mixture was heated to about 85° C. for an additional 10 hours. The bulk of the N,N-dimethylformamide was removed by vacuum distillation and the residue was diluted with water (286 liters). The aqueous mixture was extracted with three portions of a 1:1 mixture of heptane and ethyl acetate (239 liters, 139 liters and 139 liters respectively). The combined organic layers were washed with water, concentrated to approximately 150 liters by vacuum distillation and diluted with glacial acetic acid (133 kg). Additional solvent was removed by vacuum distillation. Addition of glacial acetic acid (84 kg) provided a solution of 4-methoxy-3-(3-morpholinopropoxy)benzonitrile (62.5 kg) in acetic acid (122 kg) which was used without further purification.

reactant | 3-hydroxy-4-methoxybenzonitrile | 34.3 kg | OC=1C=C(C#N)C=CC1OC | C8H7NO2
reactant | potassium carbonate | 54.5 kg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 226 kg | CN(C=O)C | C3H7NO
reactant | N-(3-chloropropyl)morpholine | 41.1 kg | ClCCCN1CCOCC1 | C7H14ClNO
solvent | toluene | 91.4 kg | C1(=CC=CC=C1)C | C7H8
product | 4-methoxy-3-(3-morpholinopropoxy)benzonitrile | 62.5 kg | COC1=C(C=C(C#N)C=C1)OCCCN1CCOCC1 | C15H20N2O3
